US08076345B2
2-{4-[(imidazo[1,2-a]pyridin-7-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (300 mg, 1.05 mmol) and imidazo[1,2-a]pyridin-7-ylmethanamine (400 mg, 2.31 mmol) in acetonitrile (10 mL) and N,N-diisopropylethylamine (1.0 mL, 5.7 mmol) was subjected to microwave irradiation at 185° C. for 2.5 h. The reaction mixture was concentrated and purified by semi-preparative HPLC (100×20.2 mm, C18 column; 30-60% CH3CN-water [10 mM Et2NH]) to yield a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 1.05 mmol, 300 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | imidazo[1,2-a]pyridin-7-ylmethanamine | 2.31 mmol, 400 mg | N=1C=CN2C1C=C(C=C2)CN | C8H9N3
reactant | N,N-diisopropylethylamine | 5.7 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-{4-[(imidazo[1,2-a]pyridin-7-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | N=1C=CN2C1C=C(C=C2)CNC=2C1=C(N=CN2)CCN(C1)C1=C(C#N)C=C(C=C1)C | C23H21N7
